US06953790B2
Step B. (3R,6S)-3-Amino-6-(2,3-difluorophenyl)-1-[2-(methylsulfinyl)ethyl]azepan-2-one
Trifluoroacetic acid (1 mL) was added to a solution of tert-butyl (3R,6S)-6-(2,3-difluorophenyl)-1-[2-(methylsulfinyl)ethyl]-2-oxoazepan-3-ylcarbamate (23 mg, 0.053 mmol) in dichloromethane (2 mL). After 3 h, the solution was concentrated. Saturated aqueous sodium bicarbonate solution was added and the mixture was extracted with dichloromethane (3×). The combined organic extracts were washed with saturated brine, dried over magnesium sulfate, filtered and concentrated to give the title compound. MS 331 (M+1).

reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl (3R,6S)-6-(2,3-difluorophenyl)-1-[2-(methylsulfinyl)ethyl]-2-oxoazepan-3-ylcarbamate | 0.053 mmol, 23 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(N(C1)CCS(=O)C)=O)NC(OC(C)(C)C)=O | C20H28F2N2O4S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (3R,6S)-3-Amino-6-(2,3-difluorophenyl)-1-[2-(methylsulfinyl)ethyl]azepan-2-one | N[C@H]1C(N(C[C@@H](CC1)C1=C(C(=CC=C1)F)F)CCS(=O)C)=O | C15H20F2N2O2S
